US04482710
2 g of sodium 3-acetoxymethyl-7-phenoxyacetamido-3-cephem-4-carboxylate were dissolved in 20 ml of 35% v/v aqueous methanol, and 25 g of magnesium bromide hexahydrate were added to the solution. The resulting mixture was heated and stirred at 70° C. for 2 hours, after which it was treated as described in Example 2, to give 3-methoxymethyl-7-phenoxyacetamido-3-cephem-4-carboxylic acid in the form of a yellow solid.

reactant | sodium 3-acetoxymethyl-7-phenoxyacetamido-3-cephem-4-carboxylate | 2 g | C(C)(=O)OCC=1CS[C@H]2N(C1C(=O)[O-])C(C2NC(COC2=CC=CC=C2)=O)=O.[Na+]
reactant | magnesium bromide hexahydrate | 25 g | O.O.O.O.O.O.[Br-].[Mg+2].[Br-]
solvent | methanol | CO | CH4O
product | 3-methoxymethyl-7-phenoxyacetamido-3-cephem-4-carboxylic acid | COCC=1CS[C@H]2N(C1C(=O)O)C(C2NC(COC2=CC=CC=C2)=O)=O | C17H18N2O6S
